2120-05-30 07:06:00 Physician Resident Progress Note
Chief Complaint: Hypoxic respiratory failure
   24 Hour Events:
   underwent VATS LLL wedge biopsy -> reintubated for post-procedure
   hypoxia
   ET tube high -> attempted to readvance but had to be reintubated
   Chest tube placed on water seal this AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Niacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-5-29**] 06:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-5-30**] 01:49 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-5-29**] 04:00 PM
   Pantoprazole (Protonix) - [**2120-5-29**] 08:30 PM
   Propofol - [**2120-5-30**] 01:00 AM
   Metoprolol - [**2120-5-30**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies any pain
   Flowsheet Data as of  [**2120-5-30**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.3
   HR: 62 (52 - 73) bpm
   BP: 95/45(61) {95/45(61) - 151/75(100)} mmHg
   RR: 17 (13 - 24) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  3,361 mL
                                                                    253 mL
   PO:
             TF:
   IVF:
                                                                  3,361 mL
                                                                    253 mL
   Blood products:
   Total out:
                                                                  1,616 mL
                                                                    840 mL
   Urine:
                                                                    590 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,745 mL
                                                                   -587 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 517 (316 - 687) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 47
   PIP: 14 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.43/45/101/27/4
   Ve: 13.1 L/min
   PaO2 / FiO2: 202
   Physical Examination
   Intubated
   PEARL, sclera anicteric
   Irregular bradycardic no murmurs
   Lungs with few inspiratory dry crackles L>R base
   L chest tube draining serosanguinous fluid
   Abd soft nontender +bowel sounds
   Extrem warm no edema
   Opens eyes to voice, squeezing hands and wiggles toes to commands
   Labs / Radiology
   131 K/uL
   10.0 g/dL
   126 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.6 mEq/L
   27 mg/dL
   106 mEq/L
   140 mEq/L
   29.6 %
   9.9 K/uL
         [image002.jpg]
                             [**2120-5-29**]  03:58 PM
                             [**2120-5-29**]  10:11 PM
                             [**2120-5-30**]  03:25 AM
   WBC
   9.9
   Hct
   29.6
   Plt
   131
   Cr
   0.8
   TCO2
   31
   31
   Glucose
   126
   Other labs: PT / PTT / INR:14.5/47.6/1.3, Ca++:7.8 mg/dL, Mg++:2.4
   mg/dL, PO4:3.2 mg/dL
   Imaging: [**5-29**] CXR
   New ETT is too high (12.4cm above the carina) and the partially
   visualized
   cuff may be overinflated. Lung volumes are slightly improved with
   consequent
   minimal improvement in pulmonary lucency. Otherwise, lungs are
   unchanged.
   Small left apical pneumothorax is unchanged as is a left chest tube.
   [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 31**] discussed wtih Dr. [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3113**] at ~6:20PM on [**2120-5-29**]. - [**First Name8 (NamePattern2) 1314**]
   [**Doctor Last Name 6695**]
   CXR [**5-29**]
   bilateral fine interstitial haziness with L effusion, L apical ptx
   Microbiology: [**5-29**] Blood cx X 2 NGTD
   [**5-29**] Tissue cx pending, PCP neg [**Name Initial (PRE) **] 2
   [**2120-5-29**] 3:00 am PLEURAL FLUID      PLEURAL EFFUSION.
      GRAM STAIN (Final [**2120-5-29**]):
         4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   .
   [**2120-5-29**] 5:49 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2120-5-29**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
   Assessment and Plan
   76 M w/ pmh Rheumatoid Arthritis on Humira and Methotrexate, diastolic
   heart failure, atrial fibrillation with p/w hypoxic respiratory failure
   s/p vats and Lingula/LLL biopsy.
   .
   #. Hypoxic respiratory failure:
   He appeared to be stable on 3L NC prior to the VATS procedure and per
   the OSH report, he dramatically improved clinically (and his pulmonary
   infiltrates improved) w/ steroids.  Apparently he initally did well
   after extubation but then had increased work of breathing and hypoxia.
   It seems possible that he could have had flash pulmonary edema vs
   aspiration with resuting pneumonitiis vs pna that caused acute
   decompensation requiring intubation.  His CXR at the time of
   re-intubation looks dramatically worse than the prior CXR altough we
   have already been able to wean FiO2.  Unclear etiology of pulmonary
   infiltrates that brought him to [**Hospital 680**] Hospital.  Cx there w/ ngtd
   and apparently he dramatically improved w/ steroids.
   Nature of underlying lung disease not certain
 ddx broad including IPF
   or other ILD, methotrexate toxicity
   - in absence of fever or leukocytosis think pulmonary infection less
   likely, will DC vancomycin and zosyn once culture negative for 48
   hours. Will monitor closely
 usual s/sx of infection may be masked in
   setting of steroids
   - decrease dose of methylpresnisolone to 125 IV qday
   - discuss bronch in am if biopsy is non-diagnostic
   - plan to extubate this am if tolerates SBT
   - Has cuff leak this am
   - wean sedation
   - follow up pending micro and path, CIS
   .
   #. S/p VATS: Chest tube in place draining sero-sanguenous fluid.  Small
   PTX on am CXR
   Chest tube placed to water seal by thoracics this AM
   - repeat CXR 4 hours after CT to waterseal (noon)
   - would likely plan to d/c chest tube when drainage is < 100 cc/ 24
   hrs.
   - appreciate thorasics input
   - daily CXR to eval for worsening PTX
   .
   #. Rheumatoid arthritis:
   - hold methotrexate and humira for now
   - will consider Rheum consult in the am depending on symptoms
   .
   #. Macrocytic Anemia: Unclear etiology.
   - check b12, folate, iron studies
   - trend for now
   - guaiac all stools
   .
   #. CHF: Normal EF from OSH report but h/o diastolic dysfunction.  As a
   result, likely does not tolerate a rapid rate or severe hypertension
   well.
   - maintain excellent BP control
   - rate control as below
   .
   #. Afib: on digoxin and metoprolol for rate control as an outpatient
   and coumadin for anticoagulation.
   - holding coumadin, will discuss re-starting with thorasics
   - as no systolic dysfunction, would opt to d/c digoxin and rate control
   w/ metoprolol for now
   ICU Care
   Nutrition: pending extubation, if gag will consider advancing diet
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   16 Gauge - [**2120-5-29**] 02:31 PM
   22 Gauge - [**2120-5-29**] 02:31 PM
   Arterial Line - [**2120-5-29**] 07:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2120-05-30 08:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2120-5-29**] 05:30 PM
   blood cx x2, sputum cx
 ARTERIAL LINE - START [**2120-5-29**] 07:08 PM
   > could not advane ETT, had to be re-intubated (kinked in the posterior
   pharynx)
   > Chest tube to water seal.
   Allergies:
   Niacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-5-29**] 06:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-5-30**] 01:49 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-5-29**] 04:00 PM
   Pantoprazole (Protonix) - [**2120-5-29**] 08:30 PM
   Propofol - [**2120-5-30**] 01:00 AM
   Metoprolol - [**2120-5-30**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-5-30**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.3
   HR: 62 (52 - 73) bpm
   BP: 95/45(61) {95/45(61) - 151/75(100)} mmHg
   RR: 17 (13 - 24) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  3,361 mL
                                                                    274 mL
   PO:
             TF:
   IVF:
                                                                  3,361 mL
                                                                    274 mL
   Blood products:
   Total out:
                                                                  1,616 mL
                                                                    840 mL
   Urine:
                                                                    590 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,745 mL
                                                                   -566 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 517 (316 - 687) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 47
   PIP: 14 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.43/45/101/27/4
   Ve: 13.1 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: Well nourished, No acute distress, opens eyes
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: bases b/l), with good
   air leak when ETT cuff is down.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Chest tube with no leak (on water seal)
   Labs / Radiology
   10.0 g/dL
   131 K/uL
   126 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.6 mEq/L
   27 mg/dL
   106 mEq/L
   140 mEq/L
   29.6 %
   9.9 K/uL
        [image002.jpg]
                             [**2120-5-29**]  03:58 PM
                             [**2120-5-29**]  10:11 PM
                             [**2120-5-30**]  03:25 AM
   WBC
   9.9
   Hct
   29.6
   Plt
   131
   Cr
   0.8
   TCO2
   31
   31
   Glucose
   126
   Other labs: PT / PTT / INR:14.5/47.6/1.3, Ca++:7.8 mg/dL, Mg++:2.4
   mg/dL, PO4:3.2 mg/dL
   CXR [**5-29**]: ETT in good position, diffuse interstitial process, [**Doctor Last Name 170**] and
   reticular, small apical left PTX
   Sputum [**5-29**] neg gram stain 1+ PMN
   Tissue Bx [**5-28**]: 1+ PMN neg PCP and fungal, gram stain neg for org, clx
   pending
   Assessment and Plan
   76 M w/ pmh Rheumatoid Arthritis on Humira and Methotrexate, diastolic
   heart failure, atrial fibrillation with p/w hypoxic respiratory failure
   s/p vats and Lingula/LLL biopsy.
   #. Hypoxic respiratory failure: He appeared to be stable on 3L NC prior
   to the VATS procedure and per the OSH report, he dramatically improved
   clinically (and his pulmonary infiltrates improved) w/ steroids.
   Apparently he initally did well after extubation but then had increased
   work of breathing and hypoxia.  It seems possible that he could have
   had flash pulmonary edema vs aspiration that caused acute
   decompensation requiring intubation.  His CXR at the time of
   re-intubation looks dramatically worse than the prior CXR altough we
   have already been able to wean FiO2 and his CXR appears much improved
   from his pre-intubation  film. Notably has been intubated now three
   times in a 36 hr period. He does have a good cuff leak at this point.
   His SBT is excellent this AM (volumes of 650 on 0/0).
   - will cover broadly for infection w/ antibiotics for now w/ Vanc/
   Zosyn (d 1= [**5-29**])
   - cont  methylpresnisolone to 125 IV qday pending
   #. S/p VATS: Chest tube in place draining sero-sanguenous fluid.  Small
   PTX on am CXR
   - CT to water seal on the left (still with significant output), will
   f/u CXR today.
   - appreciate thorasics input
   - daily CXR to eval for worsening PTX
   #. Rheumatoid arthritis:
   - hold methotrexate and humira for now
   - will consider Rheum consult when extubated
   #. Macrocytic Anemia: Unclear etiology.
   - check b12, folate, iron studies
   - trend for now
   - guaiac all stools
   .#. CHF: Normal EF from OSH report but h/o diastolic dysfunction.  As a
   result, likely does not tolerate a rapid rate or severe hypertension
   well.
   - maintain excellent BP control
   - rate control as below
   #. Afib: on digoxin and metoprolol for rate control as an outpatient
   and coumadin for anticoagulation.
   - hold coumadin for now
   - as no systolic dysfunction, seems reasonable to cont metop as sole
   therapy (d/c digoxin)
   Additional issues per ICU resident note.
   ICU Care
   Nutrition:
   Comments: NPO for possible extubation
   Glycemic Control:
   Lines:
   16 Gauge - [**2120-5-29**] 02:31 PM
   22 Gauge - [**2120-5-29**] 02:31 PM
   Arterial Line - [**2120-5-29**] 07:08 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2120-05-31 07:45:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   - Extubated, initially high O2 requirement, on 80% facemask
   - CT placed to waterseal, PTX stable
   - Weaned to 5L NC
   Allergies:
   Niacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-5-30**] 08:06 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-5-31**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-5-30**] 05:20 PM
   Pantoprazole (Protonix) - [**2120-5-30**] 08:06 PM
   Heparin Sodium (Prophylaxis) - [**2120-5-31**] 12:17 AM
   Metoprolol - [**2120-5-31**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Breathing more comfortable today. Denies any pain.
   Flowsheet Data as of  [**2120-5-31**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.7
C (96.3
   HR: 60 (55 - 84) bpm
   BP: 121/60(79) {101/47(64) - 158/74(99)} mmHg
   RR: 17 (12 - 34) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,070 mL
                                                                    177 mL
   PO:
             TF:
   IVF:
                                                                  1,070 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  3,720 mL
                                                                    850 mL
   Urine:
                                                                  3,430 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,650 mL
                                                                   -673 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 619 (619 - 619) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 14 cmH2O
   SpO2: 94%
   ABG: 7.48/43/75/31/7
   Ve: 10.3 L/min
   PaO2 / FiO2: 75
   Physical Examination
   Lying in bed, appears comfortable
   Irregularly irregular bradycardic no murmurs
   Lungs with coarse bibasilar rales, no wheezing
   L chest tube draining serosanguinous fluid
   Abd soft nontender +bowel sounds
   Extrem warm no edema palpable pulses
   Alert and following commands
   Labs / Radiology
   120 K/uL
   10.2 g/dL
   144 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.4 mEq/L
   26 mg/dL
   101 mEq/L
   138 mEq/L
   29.0 %
   7.2 K/uL
        [image002.jpg]
                             [**2120-5-29**]  03:58 PM
                             [**2120-5-29**]  10:11 PM
                             [**2120-5-30**]  03:25 AM
                             [**2120-5-30**]  11:58 AM
                             [**2120-5-30**]  01:54 PM
                             [**2120-5-30**]  04:09 PM
                             [**2120-5-30**]  10:38 PM
                             [**2120-5-31**]  03:54 AM
                             [**2120-5-31**]  04:21 AM
   WBC
   9.9
   7.2
   Hct
   29.6
   29.0
   Plt
   131
   120
   Cr
   0.8
   0.7
   TCO2
   31
   31
   31
   31
   30
   32
   33
   Glucose
   126
   144
   Other labs: PT / PTT / INR:14.3/47.2/1.2, Ca++:7.7 mg/dL, Mg++:2.3
   mg/dL, PO4:3.1 mg/dL
   CXR bilateral reticulonodular opacities, L effusion, L apical
   pneumothorax appears similar to [**5-30**] PM film
   Micro
   [**5-29**] sputum ngtd
   [**5-29**] blood cx ngtd
   [**5-29**] pleural fluid ngtd
   [**5-29**] lung bx pcp negative, koh negative, cx ngtd
   Assessment and Plan
   76 M w/ pmh Rheumatoid Arthritis on Humira and Methotrexate, diastolic
   heart failure, atrial fibrillation with p/w hypoxic respiratory failure
   s/p vats and Lingula/LLL biopsy.
   .
   #. Hypoxic respiratory failure:
   Now extubated, with decreased O2 requirement
   He appeared to be stable on 3L NC prior to the VATS procedure and per
   the OSH report, he dramatically improved clinically (and his pulmonary
   infiltrates improved) w/ steroids.  Apparently he initally did well
   after extubation but then had increased work of breathing and hypoxia.
   It seems possible that he could have had flash pulmonary edema vs
   aspiration with resuting pneumonitiis vs pna that caused acute
   decompensation requiring intubation.  His CXR at the time of
   re-intubation looks dramatically worse than the prior CXR altough we
   have already been able to wean FiO2.  Unclear etiology of pulmonary
   infiltrates that brought him to [**Hospital 680**] Hospital.  Cx there w/ ngtd
   and apparently he dramatically improved w/ steroids.
   Nature of underlying lung disease not certain
 ddx broad including IPF
   or other ILD, methotrexate toxicity
   - in absence of fever or leukocytosis think pulmonary infection less
   likely, will DC vancomycin and zosyn once culture negative for 48
   hours. Will monitor closely
 usual s/sx of infection may be masked in
   setting of steroids
   - decrease dose of methylpresnisolone to 125 IV qday
   - follow up pending micro and path, CIS
   - wean O2, as tolerated
   .
   #. S/p VATS: Chest tube in place draining sero-sanguenous fluid.  Small
   PTX on am CXR
   Chest tube placed to water seal by thoracics this AM
   - would likely plan to d/c chest tube when drainage is < 100 cc/ 24
   hrs.
   - appreciate thorasics input
   - daily CXR to eval for worsening PTX
   .
   #. Rheumatoid arthritis:
   - hold methotrexate and humira for now
   - will consider Rheum consult in the am depending on symptoms
   .
   #. Macrocytic Anemia: Unclear etiology.
   - check b12, folate, iron studies
   - trend for now
   - guaiac all stools
   .
   #. CHF: Normal EF from OSH report but h/o diastolic dysfunction.  As a
   result, likely does not tolerate a rapid rate or severe hypertension
   well.
   - maintain excellent BP control
   - rate control as below
   .
   #. Afib: on digoxin and metoprolol for rate control as an outpatient
   and coumadin for anticoagulation.
   - holding coumadin, will discuss re-starting with thorasics
   - as no systolic dysfunction, would opt to d/c digoxin and rate control
   w/ metoprolol for now
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   16 Gauge - [**2120-5-29**] 02:31 PM
   22 Gauge - [**2120-5-29**] 02:31 PM
   Arterial Line - [**2120-5-29**] 07:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  n/a
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2120-05-31 08:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > Able to wean FiO2 down overnight
   Allergies:
   Niacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-5-30**] 08:06 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-5-31**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-5-30**] 05:20 PM
   Pantoprazole (Protonix) - [**2120-5-30**] 08:06 PM
   Heparin Sodium (Prophylaxis) - [**2120-5-31**] 12:17 AM
   Metoprolol - [**2120-5-31**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-5-31**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.7
C (96.3
   HR: 60 (55 - 84) bpm
   BP: 121/60(79) {101/47(64) - 158/74(99)} mmHg
   RR: 17 (12 - 34) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,070 mL
                                                                    180 mL
   PO:
             TF:
   IVF:
                                                                  1,070 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  3,720 mL
                                                                    850 mL
   Urine:
                                                                  3,430 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,650 mL
                                                                   -670 mL
   Respiratory support
   O2 Delivery Device: 5L Nasal cannula
   SpO2: 94%
   ABG: 7.48/43/75/31/7
   PaO2 / FiO2: 75
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : diffuse, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   120 K/uL
   144 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.4 mEq/L
   26 mg/dL
   101 mEq/L
   138 mEq/L
   29.0 %
   7.2 K/uL
        [image002.jpg]
                             [**2120-5-29**]  03:58 PM
                             [**2120-5-29**]  10:11 PM
                             [**2120-5-30**]  03:25 AM
                             [**2120-5-30**]  11:58 AM
                             [**2120-5-30**]  01:54 PM
                             [**2120-5-30**]  04:09 PM
                             [**2120-5-30**]  10:38 PM
                             [**2120-5-31**]  03:54 AM
                             [**2120-5-31**]  04:21 AM
   WBC
   9.9
   7.2
   Hct
   29.6
   29.0
   Plt
   131
   120
   Cr
   0.8
   0.7
   TCO2
   31
   31
   31
   31
   30
   32
   33
   Glucose
   126
   144
   Other labs: PT / PTT / INR:14.3/47.2/1.2, Ca++:7.7 mg/dL, Mg++:2.3
   mg/dL, PO4:3.1 mg/dL
   CXR [**5-31**]:  bilateral reticular infiltrate. Appears to be increased PTX
   on the Left, CT in good position.
   Assessment and Plan
   76 M w/ pmh Rheumatoid Arthritis on Humira and Methotrexate, diastolic
   heart failure, atrial fibrillation with p/w hypoxic respiratory failure
   s/p vats and Lingula/LLL biopsy.
    >. Hypoxic respiratory failure: He appeared to be stable on 3L NC
   prior to the VATS procedure and per the OSH report, he dramatically
   improved clinically (and his pulmonary infiltrates improved) w/
   steroids.  Apparently he initally did well after extubation but then
   had increased work of breathing and hypoxia.  It seems possible that he
   could have had flash pulmonary edema vs aspiration that caused acute
   decompensation requiring intubation. Overall the differential remains
   broad as we await the results of the bx: infection, inflammation,
   volume overload.
   - will cover broadly for infection w/ antibiotics for now w/ Vanc/
   Zosyn (d 1= [**5-29**])
   - wean  methylpresnisolone to 60 mg  IV q day pending results of
   pathology (will discuss with path)
    - obtain an additional sputum clx.
   - Goal net neg 500 cc
   > S/p VATS: Chest tube in place draining sero-sanguenous fluid.  Small
   PTX on am CXR
   - CT to water seal on the left (decreased output), CXR on water seal
   appears like increasing  PTX on the left.
   - appreciate thorasics input
   - daily CXR to eval for worsening PTX
   >. Rheumatoid arthritis:
   - hold methotrexate and humira for now
   - Rheum consult
   > Thrombocyopenia:  were low at at Falm Hospt (114 on admit), Stable at
   this point.
   - Check peripheral smear
   > Macrocytic Anemia: Unclear etiology.
   - check b12, folate, iron studies
   - trend for now
   > CHF: Normal EF from OSH report but h/o diastolic dysfunction.  As a
   result, likely does not tolerate a rapid rate or severe hypertension
   well.
   - maintain excellent BP control
   - rate control as below
   >. Afib: on digoxin and metoprolol for rate control as an outpatient
   and coumadin for anticoagulation.
   - hold coumadin for now
   - as no systolic dysfunction, seems reasonable to cont metop as sole
   therapy (d/c digoxin)
   Additional issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: advance diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2120-5-29**] 02:31 PM
   22 Gauge - [**2120-5-29**] 02:31 PM
   Arterial Line - [**2120-5-29**] 07:08 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2120-06-01 10:22:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   76yo with RA with RA-associated ILD (path c/w UIP), admit for VATS,
   course complicated by post-VATS hypoxemia requiring intubation, thought
   secondary to AE-ILD vs HAP pneumonia.
   24 Hour Events:
   + Extubated to 5L NC --> Became hypoxemic req upt to  FM 70% yesterday;
   is having some difficulty clearing thick tan
      secretions
   + Pathology= UIP
   + Patient continues to have small PTX --> switched to water seal
   yesterday
   + Failed speech and swallow evaluation
   Allergies:
   Niacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-6-1**] 03:00 AM
   Vancomycin - [**2120-6-1**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-6-1**] 08:00 AM
   Metoprolol - [**2120-6-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-6-1**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96
   HR: 64 (48 - 99) bpm
   BP: 146/76(95) {103/53(71) - 146/76(95)} mmHg
   RR: 17 (12 - 35) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                    950 mL
                                                                    371 mL
   PO:
             TF:
   IVF:
                                                                    950 mL
                                                                    371 mL
   Blood products:
   Total out:
                                                                  2,265 mL
                                                                    730 mL
   Urine:
                                                                  2,105 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
                                                                CT= 160 mL
   Balance:
                                                                 -1,315 mL
                                                                   -359 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: 7.50/42/99.[**Numeric Identifier 299**]/27/7
   PaO2 / FiO2: 141
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (PMI Normal), (S1: No(t) Normal), Irregularly,
   irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Paradoxical), (Breath Sounds: Crackles
   : fine end-inspiratory)
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   134 K/uL
   125 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.5 mEq/L
   25 mg/dL
   104 mEq/L
   139 mEq/L
   31.2 %
   8.4 K/uL
        [image002.jpg]
                             [**2120-5-29**]  10:11 PM
                             [**2120-5-30**]  03:25 AM
                             [**2120-5-30**]  11:58 AM
                             [**2120-5-30**]  01:54 PM
                             [**2120-5-30**]  04:09 PM
                             [**2120-5-30**]  10:38 PM
                             [**2120-5-31**]  03:54 AM
                             [**2120-5-31**]  04:21 AM
                             [**2120-5-31**]  06:23 PM
                             [**2120-6-1**]  03:03 AM
   WBC
   9.9
   7.2
   8.4
   Hct
   29.6
   29.0
   31.2
   Plt
   131
   120
   134
   Cr
   0.8
   0.7
   0.7
   TCO2
   31
   31
   31
   30
   32
   33
   34
   Glucose
   126
   144
   125
   Other labs: PT / PTT / INR:14.8/39.8/1.3, Ca++:7.6 mg/dL, Mg++:2.2
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   76yo with RA (Humira, MTX), HFnEF, Afib, with UIP, admit with hypoxemia
   after VATs.
   1) Hypoxemia
       - Likely multifactorial.  Main contributor is pneumonia with
   secretions and likely plugging.   Worsening PTX and volume status
           likely also contributing .
       - Will f/u ABG to exclude hypoventilation
       - Will need aggressive pulmonary hygiene given weak diaphragm
           + MIE q2hr
           + chest PT
           + Bronchodilators
           + Keep upright
       - Will diurese to keep I/O= -1L
       - Will resend sputum cultures to look for concomitant organisms -->
   currently on Vanc and Zosyn
       - Wean FiO2 to keep SpO2 >93%
       - Did have pulse steroids prior to VATs for presumed AE-ILD;
   currently on Prednisone 60.  Will taper
   2) Pneumothorax
       - PTX increasing. will place chest tube back to wall suction. No
   pulsus paradoxis
       - Chest tube may need repositioning; will d/w Thoracic surgery
   3) Atrial fibrillation
       - Currently rate controlled.
       - No indication for anticoagulation
   4) HFnEF
       - Keep I/O -500 to -1L
       - Will restart meds when more stable
   5) RA
       - Currently off of Humira and MTX
       - On steroids
   5) ICU
        - Full Code --> will re-address with patient
        - Access= A-line, periph
        - Prophy= PPI, SQ heparin
             + steroid prophy =  Bactrim for PCP [**Name9 (PRE) **], Ca/Vit D
        - Communication=
        - Dispo= requires ICU care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2120-5-29**] 02:31 PM
   22 Gauge - [**2120-5-29**] 02:31 PM
   Arterial Line - [**2120-5-29**] 07:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Extubated yesterday, needed increasing O2 though has stabilized. Was
   not re-intubated. Presently on 70% scoop mask and 5L NC.
   Exam notable for Tmax: 36.5
C (97.7
F)  Tcurrent: 35.6
C (96
   HR: 64 (48 - 99) bpm  BP: 146/76(95) {103/53(71) - 146/76(95)} mmHg
   RR: 17 (12 - 35) insp/min  SpO2: 99%  Heart rhythm: AF (Atrial
   Fibrillation)
   Thin, mild respiratory distress
   Irreg rhythm
   Decreased bs
s left, scattered crackles, chest tube left
   Abd benign
   Trace edema
   Labs notable for stable CBC and chem. 7
   Imaging: CXR persistent infiltrates, small left PTX, chest tube inplace
   Problems: ILD
 likely acute exacerbation of UIP, hypoxemia, RA, a-fib,
   post-op
   Agree with plan to continue steroids with slow taper, wean oxygen as
   tolerated, follow CXR and discuss CT daily with Thoracics, continue
   rate control
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 104**], MD
   on:[**2120-6-1**] 14:29 ------

2120-06-02 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure
   24 Hour Events:
   - Increased pneumothorax on imaging, changed chest tube to suction from
   water seal
   - Increased zosyn dosing
   - Started MIE, chest PT
   - NG tube placed, pulled out of position with question aspiration
   event, replaced
   - Continued copious secretions overnight
   Allergies:
   Niacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-6-1**] 08:41 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-6-2**] 05:06 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2120-6-1**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2120-6-1**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-6-2**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.8
C (96.4
   HR: 73 (50 - 101) bpm
   BP: 119/55(76) {111/55(76) - 153/84(108)} mmHg
   RR: 24 (17 - 32) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,330 mL
                                                                    387 mL
   PO:
             TF:
                                                                    172 mL
                                                                    227 mL
   IVF:
                                                                    918 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,975 mL
                                                                    545 mL
   Urine:
                                                                  1,885 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -645 mL
                                                                   -158 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: 7.50/37/221/29/5
   PaO2 / FiO2: 442
   Physical Examination
   Lying in bed, appears comfortable
   Irregularly irregular bradycardic no murmurs
   Lungs with coarse bibasilar rales, no wheezing
   L chest tube draining serosanguinous fluid
   Abd soft nontender +bowel sounds
   Extrem warm no edema palpable pulses
   Alert and following commands
   Labs / Radiology
   151 K/uL
   11.1 g/dL
   121 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.6 mEq/L
   28 mg/dL
   103 mEq/L
   138 mEq/L
   32.0 %
   9.8 K/uL
        [image002.jpg]
                             [**2120-5-30**]  04:09 PM
                             [**2120-5-30**]  10:38 PM
                             [**2120-5-31**]  03:54 AM
                             [**2120-5-31**]  04:21 AM
                             [**2120-5-31**]  06:23 PM
                             [**2120-6-1**]  03:03 AM
                             [**2120-6-1**]  05:46 PM
                             [**2120-6-2**]  03:59 AM
                             [**2120-6-2**]  04:11 AM
                             [**2120-6-2**]  04:50 AM
   WBC
   7.2
   8.4
   9.8
   Hct
   29.0
   31.2
   32.0
   Plt
   120
   134
   151
   Cr
   0.7
   0.7
   0.8
   TCO2
   30
   32
   33
   34
   31
   34
   30
   Glucose
   144
   125
   121
   Other labs: PT / PTT / INR:14.8/39.8/1.3, Ca++:7.6 mg/dL, Mg++:2.3
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   76M with history of rheumatoid arthritis on humira and methotrexate,
   diastolic heart failure, atrial fibrillation with p/w hypoxic
   respiratory failure s/p vats and LLL biopsy.
   #. Hypoxic respiratory failure: Increased O2 requirement yesterday, in
   setting of enlarged pneumothorax and increased secretions, with PTX now
   improved after chest tube to suction. Pathology from VATs c/w UIP,
   suggestive of underlying RA ILD. Also considering methotrexate lung
   toxicity. MSSA in sputum from [**5-29**]. Cause of acute hypoxia post VATs
   not certain -?flash pulmonary edema, aspiration.
   - Continue zosyn for HAP
 d/c vancomycin as patient has grown MSSA
   - Will attempt to send adequate sputum sample today
   - Continue methylprednisolone at current dose
   - Follow up pending pathology
   - Chest PT, MIE to facilitate clearance of secretions
   - Follow I/O, goal -500cc today
   - Repeat ABG with O2 sat
   #. S/p VATS: Chest tube in place for PTX draining sero-sanguenous
   fluid, back on water seal.
   - Appreciate thoracics input
 chest tube back to water seal
   - Daily CXR to evaluated PTX
   - Would likely plan to d/c chest tube when drainage is < 100 cc/ 24 hrs
   #. Rheumatoid arthritis: No acute issues.
   - Continue methylprednisolone
 start PCP prophylaxis and
   calcium/vitamin D for bone health
   - Hold methotrexate
   - [**Month (only) 8**] resume humira as an outpt 2+ weeks p VATs, defer to outpt
   rheumatologist
   #. Macrocytic anemia: Unclear etiology. Stable. Consider anemia of
   chronic disease, with MTX contributing. B12 and folate WNL.
   - Continue to monitor
   - Guaiac all stools
   #. Chronic diastolic CHF: Normal EF from OSH report but h/o diastolic
   dysfunction.  As a result, likely does not tolerate a rapid rate or
   severe hypertension well.
   - Maintain excellent BP control
   - Rate control as below
   #. Afib: Was on digoxin and metoprolol for rate control as an
   outpatient and coumadin for anticoagulation.
   - Holding coumadin for now, will discuss re-starting with thoracics
   - Continue metoprolol for rate control
   - Discontinued home digoxin as no evidence of systolic dysfunction
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2120-6-1**] 04:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2120-5-29**] 02:31 PM
   22 Gauge - [**2120-5-29**] 02:31 PM
   Arterial Line - [**2120-5-29**] 07:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
 family would like to readdress when formal
   pathology results return
   Disposition: ICU

2120-06-02 07:51:00 Physician Attending Progress Note
Chief Complaint: dyspnea, hypoxemia
   HPI:
   76yo with RA- associated ILD, admitted to OSH for worsening dyspnea
   thought [**2-5**] AE-IPF s/p pulse steroid therapy, transferred to [**Hospital1 5**] for
   VATs with wedge biopsy [**2120-5-28**], pathology c/w UIP.  Post-op course
   complicated by S. aureus pneumonia requiring re-intubation [**5-29**]; was
   extubated [**5-30**]. Pt remains in ICU due to high FiO2 requirements in
   setting of copious secretions, diaphragmatic weakness and persistent
   post-op pneumothorax.
   24 Hour Events:
   - Chest tube placed back to wall suction due to enlarging PTX
   - MIE instituted due to weak cough
   - Continued to have copious secretions.
   Allergies:
   Niacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-6-1**] 08:41 PM
   Piperacillin/Tazobactam (Zosyn) - [**2120-6-2**] 05:06 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2120-6-1**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2120-6-1**] 09:00 PM
   Other medications:
   Atrovent
   Methylpred 60 qday (D#4)
   Vancomycin
   Zosyn 4.5g q6hr
   Bactrim DS MWF
   Ca/Vit D
   Tylenol 1000mg po q8hr
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-6-2**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.8
C (96.4
   HR: 67 (50 - 101) bpm
   BP: 110/57(75) {110/55(75) - 153/84(108)} mmHg
   RR: 18 (17 - 32) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,330 mL
                                                                    413 mL
   PO:
             TF:
                                                                    172 mL
                                                                    253 mL
   IVF:
                                                                    918 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,975 mL
                                                                    545 mL
   Urine:
                                                                  1,885 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -645 mL
                                                                   -132 mL
   Respiratory support
   O2 Delivery Device: High flow neb 50%
   SpO2: 98%
   ABG: 7.50/37/221/29/5
   PaO2 / FiO2: 442
   Physical Examination
   Aox3, following commands
   HEENT unremarkable
   Lungs with fine end-inspiratory crackles.  Bronchial sounds at left
   base
   Irreg irregular rhythm. No m/r/g
   Abd soft NTND NBS
   LE warm and non-edematous
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.1 g/dL
   151 K/uL
   121 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.6 mEq/L
   28 mg/dL
   103 mEq/L
   138 mEq/L
   32.0 %
   9.8 K/uL
        [image002.jpg]
                             [**2120-5-30**]  04:09 PM
                             [**2120-5-30**]  10:38 PM
                             [**2120-5-31**]  03:54 AM
                             [**2120-5-31**]  04:21 AM
                             [**2120-5-31**]  06:23 PM
                             [**2120-6-1**]  03:03 AM
                             [**2120-6-1**]  05:46 PM
                             [**2120-6-2**]  03:59 AM
                             [**2120-6-2**]  04:11 AM
                             [**2120-6-2**]  04:50 AM
   WBC
   7.2
   8.4
   9.8
   Hct
   29.0
   31.2
   32.0
   Plt
   120
   134
   151
   Cr
   0.7
   0.7
   0.8
   TCO2
   30
   32
   33
   34
   31
   34
   30
   Glucose
   144
   125
   121
   Other labs: PT / PTT / INR:14.8/39.8/1.3, Ca++:7.6 mg/dL, Mg++:2.3
   mg/dL, PO4:2.8 mg/dL
   AP CXR= LLL consolidation with air bronchograms, RLL consolidation.
   Bilat diffuse interstitial infiltrate. No PTX. Cardiomegaly. Increased
   gas pattern in bowels, diffusely.
   Assessment and Plan
   76yo with RA, UIP s/p VATs and wedge resection, with S. aureus
   pneumonia requiring intubation.
   + Hypoxemia
        - Multifactorial- likely due to underlying UIP, with an overlying
   AIP/DAD (though not supported by biopsy), as well as S.
            aureus pneuonia.
        - There seems to be a discrepancy between SpO2 and PaO2
            + will check SaO2 with next ABG
            + If discrepancy continues will look for hemoglobinopathy
   (metHb)
        - Continue to keep I/O neg
        - continue MIE for secretion management
   +  UIP
        - Remains on steroid taper for ? AE-IPF
 will keep on Pred 60
   today and consider tapering
           tomorrow.
             + On PCP [**Name9 (PRE) **], Ca/Vit D, PPI
   + S. aureus pneumonia
        - Sensitivities show MSSA
 will d/c Vancomycin.
        - Will continue Zosyn for now given ? aspiration event; if repeat
   cultures show no [**Last Name (LF) 634**], [**First Name3 (LF) 124**] narrow to Nafcillin
        - continue aggressive pulmonary hygiene with MIE, bronchodilators
   + Pneumothorax
        - Now resolved on chest Xray; no leak appreciated.
        - Place Chest tube to water seal today and re-image tomorrow
        - Thoracic surgery continues to follow- appreciate their input.
   + Rheumatoid arthritis
        - Was on Humira and MTX as outpt; per rheumatology team these
   therapies on hold.
   + Atrial fibrillation
        - Rate controlled on his own.
        - will d/w thoracics when to restart home anticoagulation.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2120-6-1**] 04:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2120-5-29**] 02:31 PM
   22 Gauge - [**2120-5-29**] 02:31 PM
   Arterial Line - [**2120-5-29**] 07:08 PM- will keep in place for now, but
   likely d/c tomorrow.
   Prophylaxis:
   DVT:  SCDs
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:  Will have family meeting today to update
   family on status and discuss code status
   Code status: Full code
   Disposition :  will remain in MICU today given high oxygen and suction
   requirements
   Total time spent:   35 min
   ------ Protected Section ------
   Critical Care
   Present for the key portions of the resident/ fellow history and exam.
   Agree substantially with assessment and plan as outlined this morning
   during multidisciplinary rounds.
   97.2   66    102/54
   Alert
   Diffuse crackles bilat
   WBC/ hct stable.
   I&O -214 for day yesterday
   Remains fragile. TSurg is following PTX
 now on suction.  Continues to
   have copious secretions c/w Staph PNA.  We are trying to maintain neg
   today
 BUN/creat has not bumped.   At this point does not need
   intubation but remains v fragile.
   Time spent 35 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2120-6-2**] 16:26 ------

2120-06-03 07:58:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   - desat to 70s up to 70% facemask PLUS nasal canula, but subsequently
   weaned weaned down to 35% without NC
   - afib with rvr got 5mg metoprolol with good response
   - CT placed back to suction given inc. size of PTX -> waterseal this AM
   - Family mtg held, ok to reintubate, if reach point with little hope of
   improvement, family will likely withdraw care
   Allergies:
   Niacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-6-2**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-6-3**] 04:26 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2120-6-2**] 08:00 AM
   Metoprolol - [**2120-6-2**] 09:50 AM
   Heparin Sodium (Prophylaxis) - [**2120-6-3**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-6-3**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 65 (60 - 130) bpm
   BP: 113/57(76) {99/53(68) - 140/71(93)} mmHg
   RR: 22 (14 - 36) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,299 mL
                                                                    873 mL
   PO:
             TF:
                                                                  1,262 mL
                                                                    545 mL
   IVF:
                                                                    617 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    600 mL
   Urine:
                                                                  1,570 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    549 mL
                                                                    273 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.51/40/69/29/7
   PaO2 / FiO2: 197
   Physical Examination
   Sitting up in bed, in no distress
   No JVD
   Irregular, S1 S2 no m/r/g
   Lungs with bibasilar coarse rales, no wheezing, L sided pleural
   friction rub
   Abd soft nontender +bowel sounds
   Extrem warm no edema palpable pulses
   Alert and interactive, answering appropriately
   Labs / Radiology
   152 K/uL
   11.1 g/dL
   143 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.6 mEq/L
   24 mg/dL
   102 mEq/L
   137 mEq/L
   32.0 %
   11.1 K/uL
        [image002.jpg]
                             [**2120-5-31**]  04:21 AM
                             [**2120-5-31**]  06:23 PM
                             [**2120-6-1**]  03:03 AM
                             [**2120-6-1**]  05:46 PM
                             [**2120-6-2**]  03:59 AM
                             [**2120-6-2**]  04:11 AM
                             [**2120-6-2**]  04:50 AM
                             [**2120-6-2**]  05:08 PM
                             [**2120-6-3**]  03:49 AM
                             [**2120-6-3**]  03:57 AM
   WBC
   8.4
   9.8
   11.1
   Hct
   31.2
   32.0
   32.0
   Plt
   134
   151
   152
   Cr
   0.7
   0.8
   0.6
   TCO2
   33
   34
   31
   34
   30
   31
   33
   Glucose
   125
   121
   143
   Other labs: PT / PTT / INR:14.8/39.8/1.3, Ca++:8.3 mg/dL, Mg++:2.1
   mg/dL, PO4:3.0 mg/dL
   CXR bilateral retic/nodular opacities, L effusion vs consolidation,
   decreased L pneumothorax
   Lung, wedge biopsies, two:
    I.  Left lower lobe (A):
   Severe patchy interstitial fibrosis with honeycomb change, focal
   fibroblastic foci, focal organizing pneumonitis and mild to moderate
   chronic interstitial inflammation, See Note.
   II.  Left lingula (B-D):
   Severe patchy interstitial fibrosis with honeycomb change, focal
   fibroblastic foci, focal organizing pneumonitis and mild to moderate
   chronic interstitial inflammation, See Note.
   Note:  The changes are consistent with usual interstitial pneumonia
   (UIP) in the appropriate clinical setting.  Similar changes are seen
   associated with rheumatoid arthritis.
   Micro
   [**6-1**] sputum negative
   5/29,[**6-2**] sputum >10 epis
   [**5-29**] sputum MSSA and H. influenza (beta lactamase negative)
   [**5-29**] blood cx NGTD
   [**5-29**] pleural fluid 4+ polys no organisms, cx NGTD
   [**5-29**] lung bx 1+ polys cx NGTD
   Assessment and Plan
   76 M w/ pmh Rheumatoid Arthritis on Humira and Methotrexate, diastolic
   heart failure, atrial fibrillation with p/w hypoxic respiratory failure
   s/p vats and Lingula/LLL biopsy.
   #. Hypoxic respiratory failure:
   Still with significant O2 requirement, in setting of ptx and increased
   secretions. Has S. aureus and H influenzae from his sputum here. Path
   from VATs c/w UIP, suggestive of underlying RA ILD. Also considering
   mtx lung toxicity.
   Cause of hypoxia post VATs not certain ?flash pulmonary edema,
   aspiration.
   - Cont. zosyn for HCAP, day 1=[**5-29**] for 14 day course
   - Continue methylprednisolone, decrease to 40mg daily today
   - Chest PT, MIE q2hours to facilitate clearance of secretions
   - Follow I/O, goal -1L today, will give 20mg IV now
   - Repeat ABG in PM
   #. S/p VATS: Chest tube in place draining sero-sanguenous fluid, on
   water seal.  Has known L ptx, stable today without leak
   - appreciate thoracics input
 on waterseal now
   - daily CXR to eval for worsening PTX
   - would likely plan to d/c chest tube when drainage is < 100 cc/ 24
   hrs, possibly today
   #. Rheumatoid arthritis:
   - hold methotrexate
   - may resume humira as an outpt 2+ weeks p VATs, defer to outpt
   rheumatologist
   #. Macrocytic Anemia: Unclear etiology. Consider anemia of chronic
   disease. MTX could be contributory. B12 and folate WNL.
   - check smear
   - trend hct for now
   - guaiac all stools
   #. CHF: Normal EF from OSH report but h/o diastolic dysfunction.  As a
   result, likely does not tolerate a rapid rate or severe hypertension
   well.
   - maintain excellent BP control
   - rate control as below
   #. Afib: on digoxin and metoprolol for rate control as an outpatient
   and coumadin for anticoagulation.
   - holding coumadin, will discuss re-starting with thoracics
   - as no systolic dysfunction, digoxin was discontinued, however
   somewhat limited by HR with metoprolol now so will favor restarting
   home dose of dig today and cont. metoprolol 12.5mg tid
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2120-6-3**] 12:53 AM 70 mL/hour
   Glycemic Control:  Blood sugar well controlled, Comments: humalog
   sliding scale
   Lines:
   Arterial Line - [**2120-5-29**] 07:08 PM
   18 Gauge - [**2120-6-2**] 10:25 PM
   20 Gauge - [**2120-6-2**] 10:25 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2120-06-03 08:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Niacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-6-2**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-6-3**] 04:26 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2120-6-2**] 08:00 AM
   Metoprolol - [**2120-6-2**] 09:50 AM
   Heparin Sodium (Prophylaxis) - [**2120-6-3**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-6-3**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 65 (60 - 130) bpm
   BP: 113/57(76) {99/53(68) - 140/71(93)} mmHg
   RR: 22 (14 - 36) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,299 mL
                                                                    883 mL
   PO:
             TF:
                                                                  1,262 mL
                                                                    554 mL
   IVF:
                                                                    617 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    600 mL
   Urine:
                                                                  1,570 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    549 mL
                                                                    283 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.51/40/69/29/7
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : insp, fine)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   152 K/uL
   143 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.6 mEq/L
   24 mg/dL
   102 mEq/L
   137 mEq/L
   32.0 %
   11.1 K/uL
        [image002.jpg]
                             [**2120-5-31**]  04:21 AM
                             [**2120-5-31**]  06:23 PM
                             [**2120-6-1**]  03:03 AM
                             [**2120-6-1**]  05:46 PM
                             [**2120-6-2**]  03:59 AM
                             [**2120-6-2**]  04:11 AM
                             [**2120-6-2**]  04:50 AM
                             [**2120-6-2**]  05:08 PM
                             [**2120-6-3**]  03:49 AM
                             [**2120-6-3**]  03:57 AM
   WBC
   8.4
   9.8
   11.1
   Hct
   31.2
   32.0
   32.0
   Plt
   134
   151
   152
   Cr
   0.7
   0.8
   0.6
   TCO2
   33
   34
   31
   34
   30
   31
   33
   Glucose
   125
   121
   143
   Other labs: PT / PTT / INR:14.8/39.8/1.3, Ca++:8.3 mg/dL, Mg++:2.1
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   76yo with RA, UIP s/p VATs and wedge resection, with S. aureus
   pneumonia requiring intubation.
   + Hypoxemia: Multifactorial- likely due to underlying UIP, with an
   overlying AIP/DAD (though not supported by biopsy), as well as S.
   aureus pneuonia.
   - There seems to be a discrepancy between SpO2 and PaO2
    + will check SaO2 with next ABG
   + If discrepancy continues will look for hemoglobinopathy (metHb)
    - Continue to keep I/O neg
   - continue MIE for secretion management
   - Remains on steroid taper for ? AE-IPF
 will keep on Pred 60 today
   and consider tapering  tomorrow.
   -On PCP [**Name9 (PRE) **], Ca/Vit D, PPI
   > S. aureus pneumonia
   - Sensitivities show MSSA  will d/c Vancomycin.
   - Will continue Zosyn for now given ? aspiration event; if repeat
   cultures show no [**Last Name (LF) 634**], [**First Name3 (LF) 124**] narrow to Nafcillin
    - continue aggressive pulmonary hygiene with MIE, bronchodilators
   > Pneumothorax
     - Now resolved on chest Xray; no leak appreciated.
     - Place Chest tube to water seal today and re-image tomorrow
   - Thoracic surgery continues to follow- appreciate their input.
   > Rheumatoid arthritis
   - Was on Humira and MTX as outpt; per rheumatology team these therapies
   on hold.
    > Atrial fibrillation
   - Rate controlled on his own.
   - defer anticoagulation.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2120-6-3**] 12:53 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2120-5-29**] 07:08 PM
   18 Gauge - [**2120-6-2**] 10:25 PM
   20 Gauge - [**2120-6-2**] 10:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2120-06-04 07:28:00 Physician Resident Progress Note
Chief Complaint: 76 M w/ pmh Rheumatoid Arthritis on Humira and
   Methotrexate, diastolic heart failure, atrial fibrillation with p/w
   hypoxic respiratory failure s/p vats and Lingula/LLL biopsy, c/w UIP
   (likely RA)
   24 Hour Events:
   - chest tube put on waterseal again in AM, but ptx worse on repeat
   chest film to returned to low wall suction
 thoracics suggests water
   seal this AM
   - restarted digoxin
   - pulled out NGT
   - HR to 150s with turning/agitation and desats (86%)
   Allergies:
   Niacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-6-2**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-6-4**] 04:07 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-6-3**] 08:15 AM
   Furosemide (Lasix) - [**2120-6-3**] 01:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-6-4**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 89 (65 - 133) bpm
   BP: 128/62(83) {88/40(57) - 131/72(88)} mmHg
   RR: 26 (19 - 39) insp/min
   SpO2: 95%
 6 L NC currently
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,827 mL
                                                                    429 mL
   PO:
             TF:
                                                                  1,677 mL
                                                                    165 mL
   IVF:
                                                                    640 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  3,540 mL
                                                                    720 mL
   Urine:
                                                                  3,370 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -713 mL
                                                                   -291 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.50/42/60/29/7
   Physical Examination
   GEN:
   HEENT: JVD 8
   CHEST: bibasilar rales L>R
 up lung fields
   CV:
   ABD:
   EXT:
   NEURO:
   DERM:
   Labs / Radiology
   191 K/uL
   12.8 g/dL
   78 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.2 mEq/L
   27 mg/dL
   101 mEq/L
   141 mEq/L
   37.0 %
   15.1 K/uL
        [image002.jpg]
                             [**2120-6-1**]  03:03 AM
                             [**2120-6-1**]  05:46 PM
                             [**2120-6-2**]  03:59 AM
                             [**2120-6-2**]  04:11 AM
                             [**2120-6-2**]  04:50 AM
                             [**2120-6-2**]  05:08 PM
                             [**2120-6-3**]  03:49 AM
                             [**2120-6-3**]  03:57 AM
                             [**2120-6-4**]  03:53 AM
                             [**2120-6-4**]  04:53 AM
   WBC
   8.4
   9.8
   11.1
   15.1
   Hct
   31.2
   32.0
   32.0
   37.0
   Plt
   134
   151
   152
   191
   Cr
   0.7
   0.8
   0.6
   1.0
   TCO2
   31
   34
   30
   31
   33
   34
   Glucose
   125
   121
   143
   78
   Other labs: PT / PTT / INR:14.8/39.8/1.3, Differential-Neuts:87.3 %,
   Lymph:8.3 %, Mono:1.3 %, Eos:3.0 %, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.3 mg/dL
   [**5-29**] sputum Cx: MSSA and H. flu
RESPIRATORY CULTURE (Final [**2120-6-1**]):
      RARE GROWTH OROPHARYNGEAL FLORA.
      STAPH AUREUS COAG +.    RARE GROWTH.
         Staphylococcus species may develop resistance during prolonged
         therapy with quinolones.   Therefore, isolates that are initially
         susceptible may become resistant within three to four days after
         initiation of therapy.  Testing of repeat isolates may be
         warranted.
      HAEMOPHILUS INFLUENZAE, BETA-LACTAMASE NEGATIVE.    SPARSE GROWTH.
         Beta-lactamse negative: presumptively sensitive to ampicillin.
         Confirmation should be requested in cases of treatment failure in
         life-threatening infections..
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             STAPH AUREUS COAG +
                             |
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   0.5 S
TRIMETHOPRIM/SULFA---- <=0.5 S
   [**6-1**] sputum Cx: rare GNRs
   Assessment and Plan
   76 M w/Rheumatoid Arthritis on Humira and Methotrexate, diastolic heart
   failure, atrial fibrillation with p/w hypoxic respiratory failure s/p
   VATS and Lingula/LLL biopsy, bx c/w UIP.
   #. Hypoxic respiratory failure:  Still with significant O2 requirement,
   in setting of ptx. Has S. aureus and H influenzae and GNR from his
   sputum here. Path from VATs c/w UIP, suggestive of underlying RA ILD.
   Cause of hypoxia post VATs not certain ?flash pulmonary edema,
   aspiration.
   - Cont. zosyn for HCAP, day 1=[**5-29**] for 14 day course
   - decrease methylprednisolone to 20 today
   - Chest PT q2hours to facilitate clearance of secretions
   #. S/p VATS: Chest tube in place draining sero-sanguenous fluid, on
   water seal.  Has known L ptx, stable today without leak
   - appreciate thoracics input
 start waterseal now then repeat CXR
   after 4 hours
   - daily CXR to eval for worsening PTX
   - would likely plan to d/c chest tube when drainage is < 100 cc/ 24
   hrs, possibly today
   #. Rheumatoid arthritis:
   - hold methotrexate
   - may resume humira as an outpt 2+ weeks p VATs, defer to outpt
   rheumatologist
   .
   # Leukocytosis: WBC increased but likely due to diuresis
   - monitor WBC
   - monitor fever curve
   - f/u culture data
   #. Macrocytic Anemia: Unclear etiology. Consider anemia of chronic
   disease. MTX could be contributory. B12 and folate WNL.
   - trend hct for now
   - guaiac all stools
   #. CHF: Normal EF from OSH report but h/o diastolic dysfunction.  As a
   result, likely does not tolerate a rapid rate or severe hypertension
   well. Hypoxic with increased HR
   - maintain excellent BP control
   - rate control as below
   - I/O goal of even
   #. Afib: on digoxin and metoprolol for rate control as an outpatient
   and coumadin for anticoagulation.
   - holding coumadin, will discuss re-starting with thoracics
   - as no systolic dysfunction, digoxin was discontinued, however
   somewhat limited by HR with metoprolol now so continue digoxin today
   - metoprolol 5 mg IV q 6 hours for HR control
   .
   # Nutrition:
   - S&S consult today
 ATRIAL FIBRILLATION (AFIB)
 HYPOXEMIA
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-5-29**] 07:08 PM
   18 Gauge - [**2120-6-2**] 10:25 PM
   20 Gauge - [**2120-6-2**] 10:25 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care

2120-06-04 08:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > patient removed NG Tube
   > high HR with movement or agitation with O2 desaturations
   Allergies:
   Niacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2120-6-2**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-6-4**] 04:07 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-6-3**] 08:15 AM
   Furosemide (Lasix) - [**2120-6-3**] 01:23 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-6-4**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 89 (65 - 133) bpm
   BP: 128/62(83) {88/40(57) - 131/72(88)} mmHg
   RR: 26 (19 - 39) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,827 mL
                                                                    436 mL
   PO:
             TF:
                                                                  1,677 mL
                                                                    165 mL
   IVF:
                                                                    640 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                  3,540 mL
                                                                    720 mL
   Urine:
                                                                  3,370 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -713 mL
                                                                   -284 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.50/42/60/29/7
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.8 g/dL
   191 K/uL
   78 mg/dL
   1.0 mg/dL
   29 mEq/L
   4.2 mEq/L
   27 mg/dL
   101 mEq/L
   141 mEq/L
   37.0 %
   15.1 K/uL
        [image002.jpg]
                             [**2120-6-1**]  03:03 AM
                             [**2120-6-1**]  05:46 PM
                             [**2120-6-2**]  03:59 AM
                             [**2120-6-2**]  04:11 AM
                             [**2120-6-2**]  04:50 AM
                             [**2120-6-2**]  05:08 PM
                             [**2120-6-3**]  03:49 AM
                             [**2120-6-3**]  03:57 AM
                             [**2120-6-4**]  03:53 AM
                             [**2120-6-4**]  04:53 AM
   WBC
   8.4
   9.8
   11.1
   15.1
   Hct
   31.2
   32.0
   32.0
   37.0
   Plt
   134
   151
   152
   191
   Cr
   0.7
   0.8
   0.6
   1.0
   TCO2
   31
   34
   30
   31
   33
   34
   Glucose
   125
   121
   143
   78
   Other labs: PT / PTT / INR:14.8/39.8/1.3, Differential-Neuts:87.3 %,
   Lymph:8.3 %, Mono:1.3 %, Eos:3.0 %, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.3 mg/dL
   [**5-29**]
      STAPH AUREUS COAG +.    RARE GROWTH.
         Staphylococcus species may develop resistance during prolonged
         therapy with quinolones.   Therefore, isolates that are initially
         susceptible may become resistant within three to four days after
         initiation of therapy.  Testing of repeat isolates may be
         warranted.
      HAEMOPHILUS INFLUENZAE, BETA-LACTAMASE NEGATIVE.    SPARSE GROWTH.
         Beta-lactamse negative: presumptively sensitive to ampicillin.
         Confirmation should be requested in cases of treatment failure in
         life-threatening infections..
   Assessment and Plan
   76yo with RA, UIP s/p VATs and wedge resection, with S. aureus / H flu
   pnaa requiring intubation now with signifincant O2 requirement and
   limited progress over the last few days.
   > Hypoxemia: Multifactorial- likely due to underlying UIP, with an
   overlying AIP/DAD (though not supported by biopsy), as well as S.
   aureus pneumonia / H. flu and PTX
   - Cont Pip-tazo (day 1 of abx = [**5-29**]) with planned 14 day course
   - stop MIE (not getting up secretions)
   - Remains on steroid taper for ? AE-IPF, wean solumedrol to 20 mg today
   -On PCP [**Name9 (PRE) **], Ca/Vit D, PPI
   - Goal fluid balance even today
   > S. aureus  and H. flu PNA
   - will cont the Pip-Tazo (D1= [**5-29**])
   - Will continue Zosyn for now given ? aspiration event; if repeat
   cultures show no GNR,
    - continue aggressive pulmonary hygiene with MIE, bronchodilators
    > Pneumothorax
    - Cont small PTX conts to get larger when not on -20 cm (will try
   again on Water seal) and repeat CXR
   -  Thoracic surgery continues to follow- appreciate their input will
   discuss management
    Rheumatoid arthritis
   - Was on Humira and MTX as outpt; per rheumatology team these therapies
   on hold.
    > Atrial fibrillation and diastolic dysfunction:
   - Cont digoxin as he was hypotensive with metop (lowered to 12.5 mg
   tid) when he can tolerate PO
   - will need to change meds to IV pending new NG tube
   - defer anticoagulation.
   Additional issues per ICU resident
   ICU Care
   Nutrition:
   SLP to see today to re-eval swallow if fails then will need a new NG
   tube.
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-5-29**] 07:08 PM
   18 Gauge - [**2120-6-2**] 10:25 PM
   20 Gauge - [**2120-6-2**] 10:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Will plan on family meeting today as patient
   is requesting to know what the overall plan is
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2120-06-05 08:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Niacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-6-5**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-6-4**] 12:15 PM
   Haloperidol (Haldol) - [**2120-6-4**] 01:30 PM
   Heparin Sodium (Prophylaxis) - [**2120-6-5**] 12:30 AM
   Metoprolol - [**2120-6-5**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-6-5**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.4
   HR: 69 (59 - 110) bpm
   BP: 106/54(72) {70/48(63) - 123/73(88)} mmHg
   RR: 16 (16 - 36) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                    905 mL
                                                                    182 mL
   PO:
             TF:
                                                                    165 mL
   IVF:
                                                                    650 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  1,880 mL
                                                                    330 mL
   Urine:
                                                                  1,880 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -975 mL
                                                                   -148 mL
   Respiratory support
   SpO2: 99%
   ABG: 7.47/42/101/27/6
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   170 K/uL
   87 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.3 mEq/L
   27 mg/dL
   102 mEq/L
   138 mEq/L
   34.3 %
   10.0 K/uL
        [image002.jpg]
                             [**2120-6-2**]  03:59 AM
                             [**2120-6-2**]  04:11 AM
                             [**2120-6-2**]  04:50 AM
                             [**2120-6-2**]  05:08 PM
                             [**2120-6-3**]  03:49 AM
                             [**2120-6-3**]  03:57 AM
                             [**2120-6-4**]  03:53 AM
                             [**2120-6-4**]  04:53 AM
                             [**2120-6-5**]  03:27 AM
                             [**2120-6-5**]  03:39 AM
   WBC
   9.8
   11.1
   15.1
   10.0
   Hct
   32.0
   32.0
   37.0
   34.3
   Plt
   151
   152
   191
   170
   Cr
   0.8
   0.6
   1.0
   1.0
   TCO2
   34
   30
   31
   33
   34
   31
   Glucose
   121
   143
   78
   87
   Other labs: PT / PTT / INR:14.8/39.8/1.3, Differential-Neuts:87.3 %,
   Lymph:8.3 %, Mono:1.3 %, Eos:3.0 %, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   76yo with RA, UIP s/p VATs and wedge resection, with S. aureus / H flu
   pnaa requiring intubation now with signifincant O2 requirement and
   limited progress over the last few days.
   > Hypoxemia: Multifactorial- likely due to underlying UIP, with an
   overlying AIP/DAD (though not supported by biopsy), as well as S.
   aureus pneumonia / H. flu and PTX
   - Cont Pip-tazo (day 1 of abx = [**5-29**]) with planned 14 day course
   - stop MIE (not getting up secretions)
   - Remains on steroid taper for ? AE-IPF, wean solumedrol to 20 mg today
   -On PCP [**Name9 (PRE) **], Ca/Vit D, PPI
   - Goal fluid balance even today
   > S. aureus  and H. flu PNA
   - will cont the Pip-Tazo (D1= [**5-29**])
    > Pneumothorax
    - Cont small PTX conts to get larger when not on -20 cm (will try
   again on Water seal) and repeat CXR
   -  Thoracic surgery continues to follow- appreciate their input will
   discuss management
    Rheumatoid arthritis
   - Was on Humira and MTX as outpt; per rheumatology team these therapies
   on hold.
    > Atrial fibrillation and diastolic dysfunction:
   - Cont digoxin as he was hypotensive with metop (lowered to 12.5 mg
   tid) when he can tolerate PO
   - will need to change meds to IV pending new NG tube
   - defer anticoagulation.
    Additional issues per ICU resident
   ICU Care
   Nutrition:
   Comments: NPO pending NG tube
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-5-29**] 07:08 PM
   18 Gauge - [**2120-6-2**] 10:25 PM
   20 Gauge - [**2120-6-2**] 10:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill